US05532236
h. 4-Benzyloxy-2-(2-ethoxycarbonylhydrazino)-6-(1H-imidazol-1-yl)-quinoxalin-3(4H)-one
To a solution of 4-benzyloxy-2-chloro-6-(1H-imidazol-1-yl)-quinoxalin-3(4H)-one (9.4 g; ~27.6 mmol) in 500 ml acetonitrile was added ethyl carbazate (28 g; ~270 mmol). The reaction mixture was refluxed overnight. Cooling to room temperature gave the title compound (11.1 g; 99%) as a precipitate. M.p. 197°-199° C.

reactant | 4-benzyloxy-2-chloro-6-(1H-imidazol-1-yl)-quinoxalin-3(4H)-one | ~27.6 mmol, 9.4 g | C(C1=CC=CC=C1)ON1C(C(=NC2=CC=C(C=C12)N1C=NC=C1)Cl)=O | C18H13ClN4O2
reactant | ethyl carbazate | ~270 mmol, 28 g | C(NN)(=O)OCC | C3H8N2O2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-Benzyloxy-2-(2-ethoxycarbonylhydrazino)-6-(1H-imidazol-1-yl)-quinoxalin-3(4H)-one | 11.1 g, 99% | C(C1=CC=CC=C1)ON1C(C(=NC2=CC=C(C=C12)N1C=NC=C1)NNC(=O)OCC)=O | C21H20N6O4
